US04154834
2-[2-(3-Bromo-2-pyridylmethylthio)-ethylamino]-5-(2-pyridylmethyl)-4-pyrimidone trihydrobromide
An intimate mixture of 5-(2-pyridylmethyl)-2-methylthio-4-pyrimidone (1.5 g) and 2-(3-bromo-2-pyridylmethylthio)ethylamine (1.6 g) was heated at 130° for 6 hours. After cooling, the residue was triturated with hot water and treated with dilute hydrobromic acid to give the title compound, in 44.5% yield, m.p. 225°-230° (decomp.) (ex methanol-water).

reactant | 5-(2-pyridylmethyl)-2-methylthio-4-pyrimidone | 1.5 g | N1=C(C=CC=C1)CC=1C(NC(=NC1)SC)=O | C11H11N3OS
reactant | 2-(3-bromo-2-pyridylmethylthio)ethylamine | 1.6 g | BrC=1C(=NC=CC1)CSCCN | C8H11BrN2S
product | 2-[2-(3-Bromo-2-pyridylmethylthio)-ethylamino]-5-(2-pyridylmethyl)-4-pyrimidone trihydrobromide | 44.5% yield | Br.Br.Br.BrC=1C(=NC=CC1)CSCCNC1=NC=C(C(N1)=O)CC1=NC=CC=C1 | InChI=1S/C18H18BrN5OS.3BrH/c19-15-5-3-7-21-16(15)12-26-9-8-22-18-23-11-13(17(25)24-18)10-14-4-1-2-6-20-14;;;/h1-7,11H,8-10,12H2,(H2,22,23,24,25);3*1H
